US04065584
a. 1-Phenylthio-2-methyl-3-chloropropane
A mixture of 22 g (0.2 mol) of thiophenol and 37.7 g (0.22 mol) of 3-bromo-1-chloro-2-methylpropane in 200 ml of ethanol is stirred at 40° C and 40 ml (0.2 mol) of 5N sodium hydroxide solution is added dropwise. The mixture is stirred for a further 2 hours at 40° C and evaporated to dryness in vacuo, the residue is extracted with methylene chloride and the extract is washed with water, dried and evaporated in vacuo. 39 g (97%) of a yellow oil are obtained.

reactant | thiophenol | 0.2 mol, 22 g | C1(=CC=CC=C1)S | C6H6S
reactant | 3-bromo-1-chloro-2-methylpropane | 0.22 mol, 37.7 g | BrCC(CCl)C | C4H8BrCl
reactant | sodium hydroxide | 0.2 mol, 5N, 40 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-Phenylthio-2-methyl-3-chloropropane | 39 g, 97% | C1(=CC=CC=C1)SCC(CCl)C | C10H13ClS
